US20010027196A1
To a stirred suspension of 1.00 g (5.37 mmol) 2,2-dicyano-1-methylsulfanyl-vinyl-cyanamide sodium salt in 10 ml acetic acid at 5° C. was added dropwise 10 ml hydrobromic acid solution (33% in acetic acid) and the mixture was stirred at room temperature for 30 minutes. The mixture was then poured onto 100 ml ice-water added. The resulting crystals were collected by filtration and washed with water (ca 500 ml) until the washings were free of bromide ion. Chromatography (ethyl acetate/hexane 1/4) afforded 1.09 g (83%) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile as a white crystalline solid. EI-MS m/e (%): 246 (M{81Br}+, 93), 244 (M{79Br}+, 94), 165 ([M—Br]+, 100).

reactant | 2,2-dicyano-1-methylsulfanyl-vinyl-cyanamide sodium salt | 5.37 mmol, 1.00 g | [Na].C(#N)C(=C(SC)NC#N)C#N
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 1.09 g, 83% | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
